US06891044B2
To a solution of 6-iodo-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole, prepared in Example 14, step (i), (143 mg, 0.3 mmol) in THF (1 mL) cooled to −78° C. under an atmosphere of argon was added n-BuLi (0.2 mL, 0.315 mmol) dropwise. The resulting mixture was stirred at −78° C. for 30 min, then a solution of benzaldehyde (0.035 mL, 0.33 mmol) in THF (0.5 mL) was added rapidly via a cannula. After 0.5 h the reaction was quenched with saturated NH4Cl (aq) and diluted with EtOAc (10 mL) and H2O (3 mL). The phases were separated and the aqueous was extracted 2×10 mL EtOAc. The pooled EtOAc was washed with brine (5 mL), dried with Na2SO4, decanted and concentrated under reduced pressure. The crude mixture was purified by silica gel chromatography (eluting with hexane:EtOAc 4:1) to give phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-yl}-methanol (68 mg, 50% yield). Rf sm=0.72; Rf p=0.39 (7:3 hexane:EtOAc); FTIR (thin film) 3368, 2952, 2893, 1621, 1478, 1449, 1374, 1307, 1249, 1216, 1078, 960, 859, 835 cm−1. MS (ESI) [M+H]/z Calc'd 457, found 457.

reactant | 6-iodo-3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazole | IC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C21H25IN2OSi
reactant | n-BuLi | 0.315 mmol, 0.2 mL | [Li]CCCC
reactant | benzaldehyde | 0.33 mmol, 0.035 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | phenyl-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-yl}-methanol | 68 mg, 50% yield | C1(=CC=CC=C1)C(O)C1=C2C(=NN(C2=CC=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H32N2O2Si
